US04663319
Sodium hydride (60% dispersion in oil) (47 mg) is suspended in N,N-dimethylformamide (2 ml), and to the suspension is added dropwise a solution of 3-(1,3-dithiol-2-ylidene)-2,4-dioxopiperidine (200 mg) in N,N-dimethylformamide (16 ml). The mixture is stirred for 10 minutes and thereto is added benzyl bromide (0.12 ml), and the mixture is further stirred for 1 hour. After the reaction, the reaction mixture is distilled to remove the solvent under reduced pressure and the residue is dissolved in chloroform. The chloroform solution is washed with an aqueous saturated sodium chloride solution, dried and then distilled to remove the solvent. The residue is recrystallized from isopropyl alcohol to give 1-benzyl-3-(1,3-dithiol-2-ylidene)-2,4-dioxopiperidine (176 mg, 62%) as pale yellow needles. m.p. 122°-124° C.

reactant | Sodium hydride | 47 mg | [H-].[Na+]
reactant | 3-(1,3-dithiol-2-ylidene)-2,4-dioxopiperidine | 200 mg | S1C(SC=C1)=C1C(NCCC1=O)=O | C8H7NO2S2
reactant | benzyl bromide | 0.12 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 16 ml | CN(C=O)C | C3H7NO
product | 1-benzyl-3-(1,3-dithiol-2-ylidene)-2,4-dioxopiperidine | 176 mg, 62% | C(C1=CC=CC=C1)N1C(C(C(CC1)=O)=C1SC=CS1)=O | C15H13NO2S2
